Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Solu-Medrol / Augmentin / Penicillins
 
Attending: ___
 
Chief Complaint:
left-sided weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ year old right handed woman with past medical
history of lupus, lupus anticoagulant positive, on
anticoagulation whom presents as transfer from ___ with left sided weakness.  

Patient reports that ___ she had a stroke that left her with
residual left sided weakness.  Patient was cared for at
___, but review of records demonstrates that MRI and
vascular studies did not reveal stroke.  Patient is being follow
by Dr. ___ thought that patient potentially had 
transient
ischemic attack and recommended anticoagulation with warfarin
because of lupus and possessing lupus anticoagulant antibody. 

Patient reports that on ___ at 7:30 ___ she was at work and
initially felt that her vision was becoming blurry.  Patient
describes bilateral central scotomas.  Patient then started to
experience tingling, then heaviness, then weakness of
predominantly her left lower extremity, but also her left side 
of
face and left arm.  Patient was clear that her symptoms did not
develop acutely, but progressed in development over hours. 
Patient reports that coworkers were noting that her voice 
sounded
different and she reports that she was tripping and almost
falling because of her left leg weakness.  Patient continued to
work her shift til release at 10:00 ___.  Patient's children at
home raised concern about the patient's change in quality of
voice and her left sided weakness so she called EMS.  Patient 
was
taken to ___, but on arrival asked to be
transferred here. 

On general review of systems, the patient denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Lupus with lupus anticoagulant antibody.  Patient on warfarin,
but has had difficulty achieving therapeutic levels.
 
Social History:
___
Family History:
Mother - ___, hypothyroidism
 
Physical Exam:
===============
ADMISSION EXAM:
===============
Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Patient was able to name both high and low frequency objects. 
Able to read without difficulty. Speech was not dysarthric. Able
to follow both midline and appendicular commands. Patient was
able to register 3 objects and recall ___ at 5 minutes. There 
was
no evidence of apraxia or neglect.

Cranial Nerves:
No visual field cut.  PERRL. EOMI. Reports reduced sensation to
fine touch in V2 and V3 distribution.  Left facial ptosis. 
Labial dysarthric voice.  Uvula midline. SCM ___. Tongue
protrudes to midline.  

Motor: 
Normal bulk, tone throughout.noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA Gastroc   
L  4    5   4+  4+  4+   ___    4    5              
R  5    ___   5    ___    5    5        

Sensory: 
Patient reports that left arm and leg have reduced sensation of
crude touch and pinprick (50-75% that of right side). 
Proprioception intact. 

DTRs:
___ response was flexor bilaterally.

Coordination: 
No dysmetria with finger to nose. 

===============
DISCHARGE EXAM:
===============
General: lying in bed, NAD
HEENT: Neck supple, full ROM. 
CV: warm and well-perfused
Resp: breathing comfortably in room air

Mental status: Awake, alert, conversant. 
Cranial nerves: Pupils 3-->2 symmetrically. EOMI without 
nystagmus. Face symmetric. Palate elevates symmetrically, tongue 
midline. Shoulder shrug strong. 
Motor: No pronator drift. Deltoid ___ on right, give-way on 
left. B/l triceps, biceps, wrist extensors, finger extensors, IO 
___. Left finger flexors with give-way. Right IP, quad, ham ___. 
LLE testing is pain-limited. Left TA with give-way. 
Sensory: Sensory intact to light touch without extinction to 
DSS. 
Reflexes: B/l biceps and brachioradialis 2. B/l patellar 2. No 
ankle clonus. Toes down bilaterally.

 
Pertinent Results:
Brain MRI: normal

=========
LAB WORK:
___
Brief Hospital Course:
================
PATIENT SUMMARY:
================
___ yo F with lupus (on Plaquenil) and lupus anti-coagulant, 
prior episode of slurred speech and left-sided weakness with 
negative MRI (TIA versus complex migraine, on Warfarin), who 
presented with several hours of vision changes, fatigue, left 
leg weakness. Exam notable for give-way weakness on the left 
side.

=====================
ACUTE MEDICAL ISSUES:
=====================
#Neurologic symptoms:
MRI brain showed no evidence of stroke. Patient's understanding 
is that she had a stroke in the past which left her with 
residual left-sided weakness. We explained that based on our 
exam and the imaging, there was no evidence of a prior stroke. 
However, it is possible that her transient symptoms are due to 
transient ischemia, and we agree that given her diagnosis of 
lupus anticoagulant, it is reasonable for her to be on chronic 
anti-coagulation. Other possible considerations for her 
presentation are complex migraine and functional neurologic 
disorder. 

#Anti-coagulation:
Patient was continued on 10 mg Warfarin daily. INR was followed 
(2.0, 2.1). She should continue to monitor as an out-patient to 
reach goal INR 2.5.

===============
CHRONIC ISSUES:
===============
#Lupus: Patient reported possible recurrence of joint pains. 
Follow up was arranged with patient's primary rheumatologist, 
Dr. ___.

====================
TRANSITIONAL ISSUES:
====================
[]Warfarin management
[]Thyroid testing: TSH borderline high (4.9) with normal T4 
(6.6), continue to monitor for hypothyroidism
[]Incidentally found to have guaiac positive stool, 
asymptomatic, continue to monitor
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 150 mg PO BID 
2. TraZODone 200 mg PO QHS 
3. melatonin 10 mg oral QHS:PRN 
4. Warfarin ___ mg PO DAILY16 
5. Docusate Sodium 100 mg PO BID 
6. Hydroxychloroquine Sulfate 200 mg PO BID 
7. Calcium Carbonate 600 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Magnesium Oxide 400 mg PO DAILY 

 
Discharge Medications:
1.  Warfarin 10 mg PO DAILY16  
2.  BuPROPion 150 mg PO BID  
3.  Calcium Carbonate 600 mg PO DAILY  
4.  Docusate Sodium 100 mg PO BID  
5.  Hydroxychloroquine Sulfate 200 mg PO BID  
6.  Magnesium Oxide 400 mg PO DAILY  
7.  melatonin 10 mg oral QHS:PRN  
8.  Multivitamins 1 TAB PO DAILY  
9.  TraZODone 200 mg PO QHS  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Positive lupus anti-coagulant
Migraine versus TIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted to the neurology service at ___ 
___ with symptoms of visual changes, 
weakness, and fatigue. ___ had imaging of your brain which did 
not show any evidence of stroke. Your primary neurologist, Dr. 
___, was notified of these results.

___ should continue to take your Warfarin as directed by your 
rheumatologist.

Please follow up with your primary care doctor, ___, 
and neurologist as instructed below.

Sincerely,  
Your ___ Neurology Team   
 
Followup Instructions:
___